US05786356
Tetralone-6-carboxylic acid, ethylene ketal (395 mg, 2.07 mmol) was co-dissolved in CH2Cl2 (50 mL) with N-hydroxysuccinimide (260 mg, 2.76 mmol) at 0° C. and treated with a slight excess of 1,3-dicyclohexylcarbodiimide (502 mg, 2.50 mmol). The mixture was allowed to warm to ambient temperature over 30 minutes, during which time a fine white precipitate formed. Ammonium chloride (333 mg, 6.23 mmol) and triethylamine (1.58 mL, 12.5 mmol, d=0.797) were added. The solution was stirred at ambient temperature for 16 hours. The suspended urea and salts were filtered away and the solution concentrated in vacuo to a colorless oil. The oil was applied to a silica flash chromatography column and eluted with 50-100% EtOAc in hexanes to yield 250 mg (64%) of 2-tetralone-6-carboxamide, ethylene ketal as a white solid, clean by NMR, TLC. 2-Tetralone-6-carboxamide ethylene ketal (250 mg, 1.07 mmol) and catalytic p-toluenesulfonic acid were stirred in acetone (50 mL) at ambient temperature for 48 hours. The volatiles were removed in vacuo and the residue triturated in ethyl acetate. The solids were filtered, washed and dried to yield 77.5 mg (38%) of 2-Tetralone-6-carboxamide as a white powder, pure by NMR, TLC. MS.

reactant | 2-Tetralone-6-carboxamide ethylene ketal | 1.07 mmol, 250 mg | C1COC2(CC3=CC=C(C=C3CC2)C(=O)N)O1 | C13H15NO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-Tetralone-6-carboxamide | 77.5 mg, 38% | C1C(CCC2=CC(=CC=C12)C(=O)N)=O | C11H11NO2
